US07683056B2
2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(2-chloro-4-fluorophenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride (E48)
HCl salt made according to method described in Example 41 starting from 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(2-chloro-4-fluorophenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E47, 10 mg) to afford a pale yellow solid.

reactant | HCl | Cl | ClH
reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-{4-(2-chloro-4-fluorophenyl)-6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | 10 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)Cl)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | C32H32ClF7N4O3
product | 2-[3,5-bis(trifluoromethyl)phenyl]-N{4-(2-chloro-4-fluorophenyl) -6-[(7S,9aS)-7-(hydroxymethyl)hexahydropyrazino[2,1-c][1,4]oxazin-8(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)Cl)N1C[C@H]2COCCN2C[C@H]1CO)(C)C)(F)F | InChI=1S/C32H32ClF7N4O3.ClH/c1-30(2,18-8-19(31(35,36)37)10-20(9-18)32(38,39)40)29(46)42(3)27-13-41-28(12-25(27)24-5-4-21(34)11-26(24)33)44-15-23-17-47-7-6-43(23)14-22(44)16-45;/h4-5,8-13,22-23,45H,6-7,14-17H2,1-3H3;1H/t22-,23-;/m0./s1
